US05500453
An aqueous solution of 2.11 g of lithium vinyltriphenylborate in 100 ml of water was added to an aqueous solution of 2.00 g of dimethylphenacylsulfonium bromide in 50 ml of water, and the resultant mixture was stirred at room temperature for 30 minutes. Then, the reaction mixture was filtered, and the resultant crystal was washed with water and dried to give 2.69 g of dimethylphenacylsulfonium-vinyltriphenylborate.

reactant | lithium vinyltriphenylborate | 2.11 g | C(=C)[B-](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[Li+]
reactant | dimethylphenacylsulfonium bromide | 2.00 g | [Br-].C[S+](CC(=O)C1=CC=CC=C1)C
solvent | water | 100 ml | O | H2O
solvent | water | 50 ml | O | H2O
product | dimethylphenacylsulfonium vinyltriphenylborate | 2.69 g | C[S+](CC(=O)C1=CC=CC=C1)C.C(=C)[B-](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C20H18B.C10H13OS/c1-2-21(18-12-6-3-7-13-18,19-14-8-4-9-15-19)20-16-10-5-11-17-20;1-12(2)8-10(11)9-6-4-3-5-7-9/h2-17H,1H2;3-7H,8H2,1-2H3/q-1;+1
